US06911447B2
Preparation of 2-[2-(tert-butyldimethylsilanyloxy)ethyl]-4-(1-methylcarbamoyl-2-naphthalen-2-ylethyl)-piperazine-1-carboxylic acid tert-butyl ester (59):
Di-tert-butyl dicarbonate (26.2 g, 120 mmol) is added to a stirred solution of 2-{3-[2-(tert-butyldimethyl-silanyloxy)ethyl]-2-oxo-piperizin-1-yl}-N-methyl-3-naphthalen-2-yl-propionamide, 58, (45.5 g, 100 mol) and triethylamine (32 mL, 230 mmol) dissolved in dichloromethane (150 mL) at 0° C. The resulting solution is allowed to warm to room temperature and stirred for 4 hours. The solution is then diluted with dichloromethane (100 mL), washed twice with 1 N HCl and twice with aq. NaHCO3 solution. The organic layer is then dried over Na2SO4, filtered and concentrated in vacuo to give the desired product which is sufficiently pure for use without purification.

reactant | Di-tert-butyl dicarbonate | 120 mmol, 26.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-{3-[2-(tert-butyldimethyl-silanyloxy)ethyl]-2-oxo-piperizin-1-yl}-N-methyl-3-naphthalen-2-yl-propionamide | C(C)(C)(C)[Si](OCCC1C(N(CCN1)C(C(=O)NC)CC1=CC2=CC=CC=C2C=C1)=O)(C)C | C26H39N3O3Si
reactant | triethylamine | 230 mmol, 32 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 2-[2-(tert-butyldimethylsilanyloxy)ethyl]-4-(1-methylcarbamoyl-2-naphthalen-2-ylethyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CN(CC1)C(CC1=CC2=CC=CC=C2C=C1)C(NC)=O)CCO[Si](C)(C)C(C)(C)C | C31H49N3O4Si
